US05328910
A mixture of 4,6-dichloro-2-methylpyrimidine-5-acetic acid, methyl ester (8.5g, 36mM) and aniline (4.7g, 49mM) was heated at 50° C. for 13 hours. Methylene chloride (300ml) was added to the cooled mixture and the mixture filtered. The liltrate was washed with 2M hydrochloric acid (1×170ml, 1×85ml) and water. The organic layer was separated, stirred with 2M sodium hydroxide (110ml) and then separated. The aqueous layer was extracted with methylene chloride (2×85ml). The organic layers were combined, washed with water, over anhydrous magnesium sulphate and the solvent evaporated to afford a solid. This solid was purified by flash column chromatography on silica (Merck 9385), eluting with ethyl acetate/hexane (20:80 v/v) to give 4-anilino-6-chloro-2-methylpyrimidine-5-acetic acid, methyl ester (3.92g, 48.6%), m.p. 115°-116° C.; microanalysis, found; C,57.7; H, 4.5; N, 14.2%; C14H14N302. requires C, 57.6; H, 4.8; N, 14.4%; NMR: 2.53(3H,s,2-CH3), 3.79(3H,s, COOCH3), 3.80(2H,s,CH2), 7.05-7.65(5H, complex, aromatic), 7.9-8.0 (1H, broad,N--H).

reactant | 4,6-dichloro-2-methylpyrimidine-5-acetic acid, methyl ester | 36mM, 8.5g | ClC1=NC(=NC(=C1CC(=O)OC)Cl)C | C8H8Cl2N2O2
reactant | aniline | 49mM, 4.7g | NC1=CC=CC=C1 | C6H7N
solvent | Methylene chloride | 300ml | C(Cl)Cl | CH2Cl2
product | 4-anilino-6-chloro-2-methylpyrimidine-5-acetic acid, methyl ester | 3.92g, 48.6% | N(C1=CC=CC=C1)C1=NC(=NC(=C1CC(=O)OC)Cl)C | C14H14ClN3O2
